US09353082B2
N-(4-Fluorophenyl)-4-(4-hydroxyphenyl)-N-methyl-1H-imidazole-1-carboxamide (deprotection)
To an methanol-dry ice cooled solution of N-(4-fluorophenyl)-4-(4-methoxyphenyl)-N-methyl-1H-imidazole-1-carboxamide (0.283 g, 0.870 mmol) in dichloromethane (8 ml) was added borontribromide (0.164 ml, 1.740 mmol). The dark reaction mixture was allowed to warm up to room temperature and stirred for 2 hours. TLC showed the reaction to be completed, then was poured into a mixture of ice and water and stirred for 30 min. There was no precipitation. The mixture was extracted with DCM:IPA (70:30), the organic phase was dried over MgSO4 and filtered. DCM was removed by vacuum and the product precipitated from IPA, filtered and dried under vacuum. (Yield: 210 mg, 78%).

reactant | methanol dry ice | CO.C(=O)=O
reactant | N-(4-fluorophenyl)-4-(4-methoxyphenyl)-N-methyl-1H-imidazole-1-carboxamide | 0.870 mmol, 0.283 g | FC1=CC=C(C=C1)N(C(=O)N1C=NC(=C1)C1=CC=C(C=C1)OC)C | C18H16FN3O2
reactant | water | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-(4-Fluorophenyl)-4-(4-hydroxyphenyl)-N-methyl-1H-imidazole-1-carboxamide | FC1=CC=C(C=C1)N(C(=O)N1C=NC(=C1)C1=CC=C(C=C1)O)C | C17H14FN3O2
